US07605156B2
33.3 mg of α-toluene sulfonamide (0.0002M, 1.2 eq.) was dissolved in 0.5 mL of DMF and added to a slurry of 8.0 mg of 60% sodium hydride (0.0002M, 1.2 eq.) in 0.5 mL of DMF. The reaction was stirred for 30 min. at which point 100 mg of 4-{2-[1-Benzhydryl-2-(3-bromo-propyl)-5-chloro-1H-indol-3-yl]-ethoxy}-benzoic acid methyl ester (0.0002M, 1.0 eq.) in 0.5 mL of DMF was added and the solution was stirred for an additional 1 hour. The reaction was quenched with water and diluted with 10 mL of ethyl acetate. The organic layer was washed with water (2×5 mL) and brine (2×5 mL), dried over magnesium sulfate and evaporated to a yellow oil. The residue was purified via column chromatography (ethyl acetate/hexanes 5:95) to give 20 mg (17%) of 4-{2-[1-Benzhydryl-5-chloro-2-(3-phenylmethanesulfonylamino-propyl)-1H-indol-3-yl]-ethoxy}-benzoicacid methyl ester as a clear oil.

reactant | α-toluene sulfonamide | 0.0002M, 33.3 mg, 1.2 eq. | C1(=CC=CC=C1)CS(=O)(=O)N | C7H9NO2S
reactant | sodium hydride | 0.0002M, 8.0 mg, 1.2 eq. | [H-].[Na+]
reactant | 4-{2-[1-Benzhydryl-2-(3-bromo-propyl)-5-chloro-1H-indol-3-yl]-ethoxy}-benzoic acid methyl ester | 0.0002M, 100 mg, 1.0 eq. | COC(C1=CC=C(C=C1)OCCC1=C(N(C2=CC=C(C=C12)Cl)C(C1=CC=CC=C1)C1=CC=CC=C1)CCCBr)=O | C34H31BrClNO3
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 4-{2-[1-Benzhydryl-5-chloro-2-(3-phenylmethanesulfonylamino-propyl)-1H-indol-3-yl]-ethoxy}-benzoicacid methyl ester | 20 mg, 17% | COC(C1=CC=C(C=C1)OCCC1=C(N(C2=CC=C(C=C12)Cl)C(C1=CC=CC=C1)C1=CC=CC=C1)CCCNS(=O)(=O)CC1=CC=CC=C1)=O | C41H39ClN2O5S
